US07576094B2
To a solution of trimethylhydroquinone (10.0 g) and acetic anhydride (10 mL) in dichloromethane (50 mL) was added diisopropylethylamine (10 mL) at room temperature. The solution was stirred at room temperature for 18 hours, diluted with ethyl acetate, washed with water and brine. Evaporation gave the 2,3,5-trimethyl-1,4-phenylene diacetate as solid.

reactant | trimethylhydroquinone | 10.0 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,3,5-trimethyl-1,4-phenylene diacetate | C(C)(=O)OC1=C(C(=C(C(=C1)C)OC(C)=O)C)C | C13H16O4
